### PR TITLE
[Merged by Bors] - feat: characterise zeros of `cos` in terms of values of `sin`

### PR DESCRIPTION
**Pull request by ShreckYe**
Similar to #27622. These seem missing for cosine case.

I simplified the proofs adapted from `sin_eq_zero_iff_cos_eq` using `simp` compared to the original way of constructing the remaining goal explictly using `exact`. If needed, I can simplify the proofs of the 2 `sin_eq_zero_iff_cos_eq`s too.

### CODE REVIEW

**Comment by ShreckYe** [comment]
easy

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 1]
```diff
@@ -506,6 +506,10 @@ theorem sin_eq_zero_iff_cos_eq {x : ℝ} : sin x = 0 ↔ cos x = 1 ∨ cos x = -
   rw [← mul_self_eq_one_iff, ← sin_sq_add_cos_sq x, sq, sq, ← sub_eq_iff_eq_add, sub_self]
   exact ⟨fun h => by rw [h, mul_zero], eq_zero_of_mul_self_eq_zero ∘ Eq.symm⟩
 
+theorem cos_eq_zero_iff_sin_eq {x : ℝ} : cos x = 0 ↔ sin x = 1 ∨ sin x = -1 := by
+  rw [← mul_self_eq_one_iff, ← sin_sq_add_cos_sq x, sq, sq]
+  simp
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: not really that big of a difference but
```suggestion
  rw [← mul_self_eq_one_iff]
  simp [← sin_sq_add_cos_sq x, sq]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 2]
```diff
@@ -988,6 +992,10 @@ theorem sin_eq_zero_iff_cos_eq {z : ℂ} : sin z = 0 ↔ cos z = 1 ∨ cos z = -
   rw [← mul_self_eq_one_iff, ← sin_sq_add_cos_sq, sq, sq, ← sub_eq_iff_eq_add, sub_self]
   exact ⟨fun h => by rw [h, mul_zero], eq_zero_of_mul_self_eq_zero ∘ Eq.symm⟩
 
+theorem cos_eq_zero_iff_sin_eq {z : ℂ} : cos z = 0 ↔ sin z = 1 ∨ sin z = -1 := by
+  rw [← mul_self_eq_one_iff, ← sin_sq_add_cos_sq z, sq, sq]
+  simp
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: same thing here, I'd go for
```suggestion
  rw [← mul_self_eq_one_iff]
  simp [← sin_sq_add_cos_sq z, sq]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 3]
```diff
@@ -506,6 +506,10 @@ theorem sin_eq_zero_iff_cos_eq {x : ℝ} : sin x = 0 ↔ cos x = 1 ∨ cos x = -
   rw [← mul_self_eq_one_iff, ← sin_sq_add_cos_sq x, sq, sq, ← sub_eq_iff_eq_add, sub_self]
   exact ⟨fun h => by rw [h, mul_zero], eq_zero_of_mul_self_eq_zero ∘ Eq.symm⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: I think you could also golf this, and the one for `Complex`. It's not that big of a difference though. idk

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: or even just sticking with `rw` in one line:
```suggestion
  rw [← mul_self_eq_one_iff, ← sin_sq_add_cos_sq x, sq, sq, left_eq_add, mul_eq_zero, or_self]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean (hunk 3 above)
Comment (ShreckYe) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: I golfed them all with the one-liner you showed. Thanks.

**Comment by ocfnash** [comment]
Thanks!

bors merge
